US07470664B2
Step 5: 1-tert-Butyl 2-methyl (2S,4R)-4-{[(4-vinyl-1,3-dihydro-2H-isoindol-2-yl)carbonyl]oxy}pyrrolidine-1,2-dicarboxylate
A solution of 1-tert-butyl 2-methyl (2S,4R)-4-hydroxypyrrolidine-1,2-dicarboxylate (10.1 g, 41.4 mmol) in DMF (90 mL) under nitrogen was cooled to 0° C. Solid 1,1′-carbonyldiimidazole (6.70 g, 41.4 mmol) was added to the reaction. The contents of the reaction flask were warmed to room temperature and after 2 h a solution of 4-vinylisoindoline (6.00 g, 41.4 mmol) in DMF (10 mL) was added. The reaction was heated in a 60° C. oil bath for 2 h then cooled and poured into water and 5% potassium bisulfate. The resulting mixture was extracted with ethyl acetate (4×250 mL). Combined organics were washed with brine, dried with anhydrous sodium sulfate, filtered and evaporated. Flash column chromatography eluting with hexane/ethyl acetate 70/30 gave the title compound as a white foam, 13.9 g (33.4 mmol, 81% yield). LRMS (ESI) m/z 417 [(M+H)+; calcd for C22H29N2O6: 417]

reactant | 1-tert-butyl 2-methyl (2S,4R)-4-hydroxypyrrolidine-1,2-dicarboxylate | 41.4 mmol, 10.1 g | O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C11H19NO5
reactant | 1,1′-carbonyldiimidazole | 41.4 mmol, 6.70 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-vinylisoindoline | 41.4 mmol, 6.00 g | C(=C)C1=C2CNCC2=CC=C1 | C10H11N
reactant | potassium bisulfate | S([O-])(O)(=O)=O.[K+]
solvent | DMF | 90 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-tert-Butyl 2-methyl (2S,4R)-4-{[(4-vinyl-1,3-dihydro-2H-isoindol-2-yl)carbonyl]oxy}pyrrolidine-1,2-dicarboxylate | 81% yield | C(=C)C1=C2CN(CC2=CC=C1)C(=O)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C22H28N2O6
